US05864039
5-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)pentylamine (0.99 g) as starting compound was reacted and treated in the same manner as in Example 1 using acetyl chloride (0.25 ml) and 4-amino-5-chloro-2-methoxybenzoic acid (0.71 g) to give N-(1-(5-acetylaminopentyl)pyrrolidin-3-ylmethyl)-4-amino-5-chloro-2-methoxybenzamide.

reactant | 5-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)pentylamine | 0.99 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCCCN | C15H31N3O2
reactant | acetyl chloride | 0.25 ml | C(C)(=O)Cl | C2H3ClO
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.71 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | N-(1-(5-acetylaminopentyl)pyrrolidin-3-ylmethyl)-4-amino-5-chloro-2-methoxybenzamide | C(C)(=O)NCCCCCN1CC(CC1)CNC(C1=C(C=C(C(=C1)Cl)N)OC)=O | C20H31ClN4O3
